US07834063B2
4-[[2-(3-Pyridinyloxy)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 3-hydroxypyridine, using dry DME as reaction solvent: 1H NMR (300 MHz, CDCl3) δ 8.14 (dd, J=5.1, 1.6 Hz, 1H), 7.65 (d, J=8.9 Hz, 1H), 7.59 (ddd, J=8.5, 6.8, 1.7 Hz, 1H), 7.35 (d, J=2.5 Hz, 1H), 7.04 (dd, J=8.8, 2.5 Hz, 1H), 6.91 (dd, J=6.8, 5.4 Hz, 1H), 6.70 (d, J=8.3 Hz, 1H), 4.56 (t, J=6.1 Hz, 2H), 4.11 (q, J=8.5 Hz, 2H), 3.96 (t, J=6.1 Hz, 2H).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
solvent | DME | COCCOC | C4H10O2
product | 4-[[2-(3-Pyridinyloxy)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | N1=CC(=CC=C1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C17H13F6N3O
